US05411955
5,6-Dihydro-4-hydroxy-2,6-dimethyl-N-(5-methyl-3-isoxazolyl)-1,1-dioxo-2H-1,2,6-thiadiazine-3-carboxamide
The synthesis was effected analogously to Example 1 using in each case 1.0 equivalent of methyl 5,6-dihydro-4-hydroxy-2,6-dimethyl-1,1-dioxo-2H-1,2,6-thiadiazine-3-carboxylate and 3-amino-5-methylisoxazole. Recrystallisation from a diisopropyl ether/tetrahydrofuran mixture gives the title compound in a yield of 49%.

reactant | methyl 5,6-dihydro-4-hydroxy-2,6-dimethyl-1,1-dioxo-2H-1,2,6-thiadiazine-3-carboxylate | 1.0 equivalent | OC1=C(N(S(N(C1)C)(=O)=O)C)C(=O)OC | C7H12N2O5S
reactant | 3-amino-5-methylisoxazole | NC1=NOC(=C1)C | C4H6N2O
product | 5,6-Dihydro-4-hydroxy-2,6-dimethyl-N-(5-methyl-3-isoxazolyl)-1,1-dioxo-2H-1,2,6-thiadiazine-3-carboxamide | yield of 49% | OC1=C(N(S(N(C1)C)(=O)=O)C)C(=O)NC1=NOC(=C1)C | C10H14N4O5S
